US07608629B2
Preparation 26. 1-Benzyl-4-(3-bromo-phenoxy)-cis-3-methyl-piperidine
Dissolve 1-benzyl-cis-3-methyl-piperidin-4-ol (preparation 6, 3.84 g, 18.73 mmol) in dry N,N-dimethylformamide (100 mL), treat with 60% sodium hydride (1.05 g, 26.22 mmol), heat and stir at 80° C. After 1 hr., add-1-bromo-3-fluoro-benzene (2.51 mL, 22.45 mmol), stir and heat at 110° C. After 16 hr., cool to ambient temperature. Partition between water (100 mL) and ethyl acetate (100 mL), wash the aqueous layer with ethyl acetate (2×100 mL), combine the organic layers, wash with water (5×100 mL) and aqueous NaCl solution (100 mL). Dry the organic layer over sodium sulfate, filter and concentrate. Purify the residue by silica gel flash chromatography eluting with 2% (2M NH3/methanol)/methylene dichloride to obtain the title compound as a mixture of enantiomers (1.69 g, 24%). 1H NMR (CDCl3): 7.3 (m, 5H), 7.1 (m, 3H), 6.8 (m, 1H), 4.3 (m, 1H), 3.5 (d, 2H), 2.5 (m, 2H), 2.4 (m, 2H), 2.0 (m, 2H), 1.8 (m, 1H), 1.0 (d, 3H).

reactant | 1-benzyl-cis-3-methyl-piperidin-4-ol | 18.73 mmol, 3.84 g | C(C1=CC=CC=C1)N1C[C@H]([C@H](CC1)O)C | C13H19NO
reactant | sodium hydride | 26.22 mmol, 1.05 g | [H-].[Na+]
reactant | 1-bromo-3-fluoro-benzene | 22.45 mmol, 2.51 mL | BrC1=CC(=CC=C1)F | C6H4BrF
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 1-Benzyl-4-(3-bromo-phenoxy)-cis-3-methyl-piperidine | C(C1=CC=CC=C1)N1C[C@H]([C@H](CC1)OC1=CC(=CC=C1)Br)C | C19H22BrNO
